US06627629B2
To {(2S,3R)-2-[(S)-3-(4-fluoro-benzyl)-piperidin-1-ylmethyl]-tetrahydro-pyran-3-yl}-carbamic acid tert-butyl ester (33 mg, 0.0813 mmol) was added 4 M hydrogen chloride in dioxane (7 mL). After stirring for one hour, the solution was concentrated in vacuo to give (2S,3R)-2-[(S)-3-(4-fluoro-benzyl)-piperidin-1-ylmethyl]-tetrahydro-pyran-3-ylamine dihydrochloride as a pale yellow residue (30.8 mg, 100%). This residue was dissolved in ethyl acetate and poured into 1N sodium hydroxide (20 mL). The layers were separated, and the resulting aqueous layer was washed with ethyl acetate (3×50 mL). The combined organic layers were washed with brine (20 mL), dried over sodium sulfate, and concentrated in vacuo to yield (2S,3R)-2-[(S)-3-(4-fluoro-benzyl)-piperidin-1-ylmethyl]-tetrahydro-pyran-3-ylamine (24.9 mg, 100%) as a pale yellow oil. MS (APCI), m+/z: (M+H)+=307.4.

reactant | {(2S,3R)-2-[(S)-3-(4-fluoro-benzyl)-piperidin-1-ylmethyl]-tetrahydro-pyran-3-yl}-carbamic acid tert-butyl ester | 0.0813 mmol, 33 mg | C(C)(C)(C)OC(N[C@H]1[C@@H](OCCC1)CN1C[C@@H](CCC1)CC1=CC=C(C=C1)F)=O | C23H35FN2O3
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | (2S,3R)-2-[(S)-3-(4-fluoro-benzyl)-piperidin-1-ylmethyl]-tetrahydro-pyran-3-ylamine dihydrochloride | Cl.Cl.FC1=CC=C(C[C@H]2CN(CCC2)C[C@@H]2OCCC[C@H]2N)C=C1 | InChI=1S/C18H27FN2O.2ClH/c19-16-7-5-14(6-8-16)11-15-3-1-9-21(12-15)13-18-17(20)4-2-10-22-18;;/h5-8,15,17-18H,1-4,9-13,20H2;2*1H/t15-,17+,18-;;/m0../s1
